US08748418B2
(5R,6R)-6-Fluoro-5-[2-fluoro-5-(tetrahydro-pyran-4-ylamino)-phenyl]-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine
In an analogous manner as described for example 1 the reductive amination of (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine (intermediate A10B) (20 mg, 78.4 μmol) and dihydro-2H-pyran-4(3H)-one (CAS [29943-42-8]) (8.63 mg, 7.96 μl, 86.2 μmol) yielded the title compound (10.2 mg, 38.4%) as a colorless oil. MS (ISP): m/z=340.2 [M+H]+.

reactant | (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine | 78.4 μmol, 20 mg | NC=1C=CC(=C(C1)[C@]1(N=C(COC[C@@H]1F)N)C)F | C12H15F2N3O
reactant | dihydro-2H-pyran-4(3H)-one | 86.2 μmol, 7.96 μl, 8.63 mg | O1CCC(CC1)=O | C5H8O2
product | (5R,6R)-6-Fluoro-5-[2-fluoro-5-(tetrahydro-pyran-4-ylamino)-phenyl]-5-methyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine | 10.2 mg, 38.4% | F[C@@H]1[C@@](N=C(COC1)N)(C)C1=C(C=CC(=C1)NC1CCOCC1)F | C17H23F2N3O2
